*
* This contains small simulations of the iput and output impedance
* matching circuits in the LNA and PA sections.  Modify the if
* statements to get the one you want, make sure to look at the
* graph with the right frequencies!
*
* Also remember that on the output side, the load side of the match
* is looking into the PA/LNA device.  So it's backwards.
*

*.option rseries = 1.0e-4

.param pa_in=0

.SUBCKT ImpMatchPAIn in vmin1 vmin2 vmout1 vmout2

Rsrc in     vmin1  50

* Decoupling cap
C0     vmin2   a1b     1n

* TX PA input matcher
* Q=65, Coilcraft 0603DC
* Actually 2.7nH, but there's a lot of parasitic inductance in the design.
L1     a1b     a1a     4.3n
Rl1    a1a     0       .13
C1     a1b     a1      22p

* 9 ohms at 435MHz
Lout a1     vmout1 1.8n
Rout vmout2 0      1.36

* -1.04 ohms at 435MHz
*Cout a1     vmout1 350p
*Rout vmout2 0      1.36

.ENDS

.SUBCKT ImpMatchPAOut in vmin1 vmin2 vmout1 vmout2

Rsrc in     vmin1  4.63
Csrc vmin2  a1     94p

* Trace inductance, see L-match output impedance below for details.
Lp1  a1  a2 2.6n

* Impedance matching network
* TX PA output matcher
C1	a2	vmout1	20p
* Q=55, CoilCraft 0402DC
L1	vmout1	a3	5.8n
Rl1	a3	0	.34
Cl1	vmout1	a3	.037p

Rout vmout2 0      50

.ENDS

.SUBCKT ImpMatchLNAIn in vmin1 vmin2 vmout1 vmout2

Rsrc in     vmin1  50

* TX LNA input matcher
* Coilcraft 0805CS series has a Q of around 50
L1   vmin2  a2   91n
R1   a2     a1   2.45
C1   a1     0    6.5p

* -80.8 ohms at 145MHz
Cout a1     vmout1 13.6p
Rout vmout2 0      142.4

.ENDS

.SUBCKT ImpMatchLNAOut in vmin1 vmin2 vmout1 vmout2

Rsrc in     vmin1  86.6
* -1.88 ohms at 145MHz
Csrc vmin2  a1     583p

* Set the DC bias between two capacitors.
Rb1  a1     0      1Meg

* TX LNA output matcher
C1	a1	0	11p
* Coilcraft 0603DC series has a Q of around 35
L1	a1	a2	47n
Rl1	a2	vmout1	1.27
Cl1	a1	a2	.186p

Rout vmout2 0      50

.ENDS

.param m = 0
.param measimp = 0

.if (measimp == 0)
.if (m == 1)
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchPAIn
.endif
.if (m == 2)
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchPAOut
.endif
.if (m == 3)
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchLNAIn
.endif
.if (m == 4)
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchLNAOut
.endif

V1 in 0 dc 0 AC 1 sin(1 0 435MEG 0 0 0)

* For current measurement
Vmin  vmin1  vmin2  dc 0 ac 0

* For current measurement
Vmout vmout1 vmout2 dc 0 ac 0
.endif

.if (measimp == 1)
.if (m == 1)
I1  0 vmin2  dc 0 ac 1
Rin    in 0 .0001
Rvmin1 vmin1 0 .0001
Rvmout vmout1 vmout2 .0001
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchPAIn
.endif
.if (m == 2)
I1  0 vmout1  dc 0 ac 1
Rin    in 0 .0001
Rvmout2 vmout2 0 .0001
Rvmin vmin1 vmin2 .0001
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchPAOut
.endif
.if (m == 3)
I1  0 vmin2  dc 0 ac 1
Rin    in 0 .0001
Rvmin1 vmin1 0 .0001
Rvmout vmout1 vmout2 .0001
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchLNAIn
.endif
.if (m == 4)
I1  0 vmout1  dc 0 ac 1
Rin    in 0 .0001
Rvmout2 vmout2 0 .0001
Rvmin vmin1 vmin2 .0001
X1 in vmin1 vmin2 vmout1 vmout2 ImpMatchLNAOut
.endif

.control

alterparam m = 1
reset
ac lin 5000 1Meg 1000meg
plot title "PA Input Loss" db((v(vmout1) * i(Vmout)) / (v(vmin1) * i(Vmin)))
alterparam measimp = 1
reset
ac lin 5000 400Meg 500meg
plot title "PA Input Impedance" v(vmin2) vi(vmin2)

alterparam measimp = 0
alterparam m = 2
reset
ac lin 5000 1Meg 1000meg
plot title "PA Output Loss" db((v(vmout1) * i(Vmout)) / (v(vmin1) * i(Vmin)))
alterparam measimp = 1
reset
ac lin 5000 400Meg 500meg
plot title "PA Output Impedance" v(vmout1) vi(vmout1)

alterparam measimp = 0
alterparam m = 3
reset
ac lin 5000 1Meg 400meg
plot title "LNA Input Loss" db((v(vmout1) * i(Vmout)) / (v(vmin1) * i(Vmin)))
alterparam measimp = 1
reset
ac lin 5000 100Meg 400meg
plot title "LNA Input Impedance" v(vmin2) vi(vmin2)

alterparam measimp = 0
alterparam m = 4
reset
ac lin 5000 1Meg 400meg
plot title "LNA Output Loss" db((v(vmout1) * i(Vmout)) / (v(vmin1) * i(Vmin)))
alterparam measimp = 1
reset
ac lin 5000 1Meg 400meg
plot title "LNA Output Impedance" v(vmout1) vi(vmout1)

.endc

.end
